US05599829
3-(4-Chloro-2-methylphenyl)-2-ethylsulfanyl-3,5-dihydroimidazol-4-one
The title compound was prepared by the procedure described in Example 6 using 18.0 g of 2-[3-(4-chloro-2-methylphenyl)-thioureido]-acetamide, and 25.0 g of ethyl iodide. The hydrochloride salt was prepared in ethereal hydrogen chloride. Crystallization from ethyl acetate afforded the title compound as an off-white solid, mono-hydrochloride (17.6 g), m.p. 166°-168° C. (dec.). Anal. Calcd. for. C12H13Cl N2O S. HCl: C, 47.22; H, 4.62; N, 9.18. Found: C, 47.24; H, 4.45; N, 9.05. Mass spectrum (+FAB, [M+H]+) m/z 269/271 1H-NMR (DMSO-d6 ; 400 MHz) δ9.05-9.78 (broad s, 2H), 7.53 (m, 1H), 7.44 (d, 1H), 7.41 (d, 1H), 7.33 (d, 1H), 4.48 (q, 2H), 3.20 (m, 2H), 2.13 (s, 3H), and 1.29 ppm (t, 3H).

reactant | 2-[3-(4-chloro-2-methylphenyl)-thioureido]-acetamide | 18.0 g | ClC1=CC(=C(C=C1)NC(NCC(=O)N)=S)C | C10H12ClN3OS
reactant | ethyl iodide | 25.0 g | C(C)I | C2H5I
solvent | hydrogen chloride | Cl | ClH
product | 3-(4-Chloro-2-methylphenyl)-2-ethylsulfanyl-3,5-dihydroimidazol-4-one | ClC1=CC(=C(C=C1)N1C(=NCC1=O)SCC)C | C12H13ClN2OS
